US06492406B1
a) 3-[(5-Fluoro-indol-1-yl)methyl]benzonitrile
To a solution of 3 g (22.2 mmol) of 5-fluoroindole in 90 ml of dry DMF was added 8.28 g (23 mmol) NaH and 4.51 g (23 mmol) of 3-bromomethyl benzonitrile. The mixture was stirred overnight at and thereafter distributed between water and dihcloromethane. The water layer was extracted twice with dichloromethane, and the combined organic extracts were washed with brine, dried and evaporated. The oily residue was subjected to flash chromatography eluting with dichloromethane/hexane (1/1), to give 5.75 g (76%) of the subtitle product.

reactant | 5-fluoroindole | 22.2 mmol, 3 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | NaH | 23 mmol, 8.28 g | [H-].[Na+]
reactant | 3-bromomethyl benzonitrile | 23 mmol, 4.51 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | water | O | H2O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 3-[(5-Fluoro-indol-1-yl)methyl]benzonitrile | 5.75 g, 76% | FC=1C=C2C=CN(C2=CC1)CC=1C=C(C#N)C=CC1 | C16H11FN2
